US05530019
The procedure of Ex. 45 was repeated except that 4-methoxybenzyl 4-[3-(3-heptyl-2-decenoyl)-1-indolyl]butyrate obtained in Ex. 53 was used in place of (E)-4-methoxybenzyl 4-[3-(2-nonenoyl)-1-indolyl]butyrate to give 4-[3-(3-heptyl-2-decenoyl)-1-indolyl]butyric acid as an oil.

reactant | 4-methoxybenzyl 4-[3-(3-heptyl-2-decenoyl)-1-indolyl]butyrate | C(CCCCCC)C(=CC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC1=CC=C(C=C1)OC)CCCCCCC | C37H51NO4
reactant | (E)-4-methoxybenzyl 4-[3-(2-nonenoyl)-1-indolyl]butyrate | C(\C=C\CCCCCC)(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC1=CC=C(C=C1)OC | C29H35NO4
product | 4-[3-(3-heptyl-2-decenoyl)-1-indolyl]butyric acid | C(CCCCCC)C(=CC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)O)CCCCCCC | C29H43NO3
